US05693611
5-Bromofuranoic acid, methyl ester
To a slurry of 15.00 g (0.0785 mol) of 5-bromofuranoic acid in 500 ml of methylene chloride, was added 12.73 g (0.0785 mol) of N,N-carbonyldiimidazole. After reacting at room temperature overnight, 6.4 ml (0.157 mol) of methanol was added and the resultant mixture was stirred for approximately one hour and then washed sequentially with a 0.5M sodium hydroxide solution (twice) and a 1M hydrochloric acid solution. The organic portion was dried over sodium sulfate, filtered and then concentrated in vacuo to provide a residue. This residue was slurried in pentane to provide a white solid.

reactant | 5-bromofuranoic acid | 0.0785 mol, 15.00 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | N,N-carbonyldiimidazole | 0.0785 mol, 12.73 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanol | 0.157 mol, 6.4 ml | CO | CH4O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | pentane | CCCCC | C5H12
product | 5-Bromofuranoic acid, methyl ester | BrC1=CC=C(O1)C(=O)OC | C6H5BrO3
